US09260414B2
(a) (S)-2-(4-{4′-[4-(4-Cyclopropanecarbonyl-piperazin-1-yl)-benzoylamino]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a mixture of (S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (1.40 g, 3.19 mmol) and N-(4-bromo-phenyl)-4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzamide (0.910 g, 2.12 mmol) in N,N-dimethylformamide (16.53 mL, 213.5 mmol) at RT was added sodium bicarbonate (1.338 g, 15.93 mmol). Water (12.06 mL, 669.2 mmol) was then added. Nitrogen was bubbled through the resulting mixture for 5 min and then tetrakis(triphenylphosphine)palladium(0) (0.258 g, 0.223 mmol) was added. The reaction mixture was heated at 90° C. under nitrogen overnight, cooled to RT, diluted with methanol (30.0 mL), and filtered. The filtrate was concentrated and dissolved in ethyl acetate (˜3 mL) and hexanes (2 mL) was slowly added to give a precipitate of crude product. This material was filtered to provide 150 mg of the product. The filtrate was concentrated and subjected to the same precipitation conditions to provide an additional 50 mg of product. This material was combined with the first precipitation crop and was used without further purification in the next step.

reactant | (S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.19 mmol, 1.40 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
reactant | N-(4-bromo-phenyl)-4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzamide | 2.12 mmol, 0.910 g | BrC1=CC=C(C=C1)NC(C1=CC=C(C=C1)N1CCN(CC1)C(=O)C1CC1)=O | C21H22BrN3O2
reactant | N,N-dimethylformamide | 213.5 mmol, 16.53 mL | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | 15.93 mmol, 1.338 g | C([O-])(O)=O.[Na+]
reactant | Water | 669.2 mmol, 12.06 mL | O | H2O
solvent | methanol | 30.0 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.223 mmol, 0.258 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(4-{4′-[4-(4-Cyclopropanecarbonyl-piperazin-1-yl)-benzoylamino]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)N1CCN(CC1)C(=O)C1CC1)=O | C39H44N6O4
